US09120788B2
Step 1. Synthesis of N-(4-chlorophenyl)-3-nitropyridin-2-amine (C8)
To a solution of 2-chloro-3-nitropyridine (15.4 g, 97.1 mmol) in N,N-dimethylformamide (100 mL) were added 4-chloroaniline (12.4 g, 97.2 mmol) and potassium carbonate (20 g, 140 mmol). The reaction mixture was stirred at 100° C. for 18 hours, and then poured into ice-water (200 mL). The precipitate was collected via filtration and washed with water (3×30 mL) to provide the product as a black solid. Yield: 15 g, 60 mmol, 62%. 1H NMR (400 MHz, DMSO-d6) δ 9.97 (br s, 1H), 8.47-8.57 (m, 2H), 7.69 (d, J=8.8 Hz, 2H), 7.41 (d, J=8.8 Hz, 2H), 7.01 (dd, J=8.2, 4.6 Hz, 1H).

reactant | 2-chloro-3-nitropyridine | 97.1 mmol, 15.4 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-chloroaniline | 97.2 mmol, 12.4 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | potassium carbonate | 140 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | N-(4-chlorophenyl)-3-nitropyridin-2-amine | ClC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C11H8ClN3O2
